US04256761
N-(2-Benzoylthiopropanoyl)-N-cyclopropylglycine
Crude N-(2-benzoylthiopropanoyl)-N-cyclopropylglycine tert-butyl ester (17.1 g) was dissolved in a mixture of anisole (25 ml) and trifluoroacetic acid (100 ml). The resulting solution was stirred at room temperature for two hours. Trifluoroacetic acid was removed in vacuo and the residue was distributed between ethyl acetate and saturated sodium bicarbonate. The aqueous bicarbonate phase was separated and washed twice with ethyl acetate and then acidified cautiously to pH 4-6 with concentrated hydrochloric acid. The precipitated product was extracted into chloroform and washed twice with water. The organic phase was dried over magnesium sulfate, filtered and evaporated to give crude product as a pale yellow oil. The product was characterized as its DCHA salt which was prepared in ether to give colorless crystals, m.p. 140°-143° C.

reactant | N-(2-benzoylthiopropanoyl)-N-cyclopropylglycine tert-butyl ester | 17.1 g | C(C)(C)(C)OC(CN(C1CC1)C(C(C)SC(C1=CC=CC=C1)=O)=O)=O | C19H25NO4S
reactant | DCHA | C1CCC(CC1)NC2CCCCC2 | C12H23N
solvent | anisole | 25 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ether | CCOCC | C4H10O
product | N-(2-Benzoylthiopropanoyl)-N-cyclopropylglycine | C(C1=CC=CC=C1)(=O)SC(C(=O)N(CC(=O)O)C1CC1)C | C15H17NO4S
